US07157448B2
6-Chloroguanine derivative prepared in Preparation 6 (100 mg) was dissolved in 10 ml of ethanol, 32 ml of triethylamine and 53 mg of sodium methoxide were added, and the resulting mixture was refluxed for 4 hours. The reaction was stopped by adding 10 ml of water. The reaction solution was extracted with dichloromethane and distilled under reduced pressure. The residue was purified by silica gel column to give a compound wherein 6-position of guanine was substituted by ethoxy group.

reactant | 6-Chloroguanine | C=1NC2=C(N1)C(=NC(=N2)N)Cl | C5H4ClN5
reactant | triethylamine | 32 ml | C(C)N(CC)CC | C6H15N
reactant | sodium methoxide | 53 mg | C[O-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | guanine | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
